US04560691
To a stirred solution containing 93 g of 3-(4-methoxyphenyl)-1-methyl-3-oxo-1-propenamine and 200 ml of dimethylformamide was added 46 ml of methyl propiolate over a 30 minute period and the reaction mixture was stirred at ambient temperature for 3 hours and then gently refluxed for 24 hours. The reaction mixture was allowed to cool, treated with 200 ml of isopropyl alcohol and the solid filtered. The solid was washed with isopropyl alcohol and dried at 90°-95° C. to yield, as white shiny crystals, 75.8 g of 5-(4-methoxybenzoyl)-6-methyl-2(1H)-pyridinone, m.p. 228°-230° C.

reactant | 3-(4-methoxyphenyl)-1-methyl-3-oxo-1-propenamine | 93 g | COC1=CC=C(C=C1)C(C=C(N)C)=O | C11H13NO2
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
reactant | methyl propiolate | 46 ml | C(C#C)(=O)OC | C4H4O2
solvent | isopropyl alcohol | 200 ml | C(C)(C)O | C3H8O
product | 5-(4-methoxybenzoyl)-6-methyl-2(1H)-pyridinone | 75.8 g | COC1=CC=C(C(=O)C=2C=CC(NC2C)=O)C=C1 | C14H13NO3
